US07985769B2
4-{[(2,4-Dichloro-benzoyl)-(2-methoxycarbonyl-5-phenyl-thiophen-3-yl)-amino]-methyl}-piperidine-1-carboxylic acid benzyl ester (150 mg, 0.24 mmol) was dissolved in a mixture of THF:MeOH:H2O (3:2:1, 2.4 mL) and treated with LiOH.H2O (29.6 mg, 0.7 mmol). The solution was heated at 55° C. for 2 h. The solvents were removed and the residue was acidified using HCl. The product was extracted with EtOAc and the organic layers were washed with brine and dried. The residue was purified by silica gel column chromatography using EtOAc:MeOH:AcOH as eluent to provide 4-{[(2-Carboxy-5-phenyl-thiophen-3-yl)-(2,4-dichloro-benzoyl)-amino]-methyl}-piperidine-1-carboxylic acid benzyl ester (124 mg, 85% yield).

reactant | 4-{[(2,4-Dichloro-benzoyl)-(2-methoxycarbonyl-5-phenyl-thiophen-3-yl)-amino]-methyl}-piperidine-1-carboxylic acid benzyl ester | 0.24 mmol, 150 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC)C(C1=C(C=C(C=C1)Cl)Cl)=O | C33H30Cl2N2O5S
reactant | LiOH.H2O | 0.7 mmol, 29.6 mg | O[Li].O
reactant | MeOH | CO | CH4O
solvent | THF MeOH H2O | 2.4 mL | C1CCOC1.CO.O
solvent | AcOH | CC(=O)O | C2H4O2
product | 4-{[(2-Carboxy-5-phenyl-thiophen-3-yl)-(2,4-dichloro-benzoyl)-amino]-methyl}-piperidine-1-carboxylic acid benzyl ester | 124 mg, 85% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN(C(C1=C(C=C(C=C1)Cl)Cl)=O)C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O | C32H28Cl2N2O5S
